US07579469B2
An oven-dried round-bottomed flask charged with cerium chloride (0.27 g, 1.08 mmol) was dried under vacuum and at 140° C. for 1 hour followed by vacuum at room temperature for an additional 14 hours. The flask was sealed with a septum, evacuated under vacuum, and charged with argon. THF (3 mL) was added and the slurry was sonicated for 1 hour to give a yellow suspension. To this slurry was added 1-[4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxopentyl]-1H-quinolin-4-one (0.20 g, 0.54 mmol) dissolved in 1 mL of THF resulting in the formation of a dark brown solution. This was stirred for 1 hour at room temperature followed by the addition of the cyclopropylmagnesium bromide (2.18 mL, 0.5 mol/L) at 0° C. The reaction was allowed to stir at this temperature for 3 hours followed by quenching through the addition of saturated ammonium chloride (10.0 mL) resulting in the formation of a white precipitate. The biphasic system was filtered and the aqueous layer was separated. The organic layer was washed with one 25 mL portion of brine, dried over anhydrous sodium sulfite, filtered, and the solvent was evaporated in vacuo to give a yellow oil. The pure product, 1-[2-cyclopropyl-4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methylpentyl]-1H-quinolin-4-one (2.0 mg, 1%) was obtained by flash chromatography on silica gel using mixtures of EtOAc-hexanes as the eluent.

reactant | cerium chloride | 1.08 mmol, 0.27 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | 1-[4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxopentyl]-1H-quinolin-4-one | 0.54 mmol, 0.20 g | FC=1C=CC(=C(C1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)=O)(C)C)OC | C22H22FNO3
reactant | cyclopropylmagnesium bromide | 0.5 mol/L, 2.18 mL | C1(CC1)[Mg]Br
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-[2-cyclopropyl-4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methylpentyl]-1H-quinolin-4-one | 2.0 mg, 1% | C1(CC1)C(CN1C=CC(C2=CC=CC=C12)=O)(CC(C)(C)C1=C(C=CC(=C1)F)OC)O | C25H28FNO3
